US05747478
After a mixture of 149.9 g (523 mmol) (3β)-3-hydroxyandrosta-5,7-dien-17-one and 56.9 g (836 mmol) imidazole in 500 mL of dichloromethane was cooled to 3° C., 144 mL (732 mmol) dimethylthexylsilyl chloride was added dropwise over 90 min, keeping the temperature below 6° C. After stirring at room temperature overnight, the mixture was washed with 500 mL of water, and the aqueous layer was back-extracted with 200 mL of dichloromethane. The combined organic layers were washed with 500 mL of saturated aqueous NaHCO3, dried over sodium sulfate, and concentrated. The resulting solid was suspended in 700 mL of methanol containing 14 mL of triethylamine, and the suspension was refluxed for 20 minutes. After cooling in a refrigerator overnight, the precipitate was filtered, washed with 600 mL of methanol/H2O (9:1), and dried by suction for 2 hr. further drying at 40° C. under high vacuum afforded 185.1 g (82.5% yield) of (3β)-3-[[1,1,2-trimethylpropyl)dimethylsilyl]oxy]androsta-5,7-dien-17-one as a beige solid: mp 119°-125° C.; Anal. Calcd for C27H44O2Si: C, 75.64; H, 10.34; Si, 6.55. Found C, 75.82; H, 10.29; Si, 6.72.

reactant | (3β)-3-hydroxyandrosta-5,7-dien-17-one | 523 mmol, 149.9 g | O[C@@H]1CC2=CC=C3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)=O | C19H26O2
reactant | imidazole | 836 mmol, 56.9 g | N1C=NC=C1 | C3H4N2
reactant | dimethylthexylsilyl chloride | 732 mmol, 144 mL | C[Si](C(C)(C)C(C)C)(C)Cl | C8H19ClSi
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | androsta-5,7-dien-17-one | C[C@@]12C(CC[C@H]1C1=CC=C3CCCC[C@]3(C)[C@H]1CC2)=O | C19H26O
